US07326732B2
(i) 3-(3-Amino-phenyl)-acrylonitrile (88)
A solution of 3-(3-nitro-phenyl)-acrylonitrile (500 mg, 2.87 mmol) in 5% aqueous AcOH (10 ml) was heated to 80° C. Iron powder (1.44 g, 25.8 mmol) was then added and the resulting mixture was stirred for 3 h. The reaction mixture was filtered through celite and the filter cake washed with MeCN (4×50 ml). The combined MeCN layers were evaporated in vacuo and the residue was re-dissolved in EtOAc (30 ml) and HCl (30 ml). The aqueous layer was separated, basified to pH 10 with 6M NaOH, and extracted with EtOAc (3×80 ml). The combined organic layers were dried (MgSO4), filtered and the solvent removed in vacuo to give the title compound.

reactant | 3-(3-nitro-phenyl)-acrylonitrile | 2.87 mmol, 500 mg | [N+](=O)([O-])C=1C=C(C=CC1)C=CC#N | C9H6N2O2
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
catalyst | Iron | 25.8 mmol, 1.44 g | [Fe] | Fe
product | 3-(3-Amino-phenyl)-acrylonitrile | NC=1C=C(C=CC1)C=CC#N | C9H8N2
